### PR TITLE
[Merged by Bors] - chore(Filter/Pi): add `piMap_map_pi`

### PR DESCRIPTION
**Pull request by urkud**
... and use it to prove `IsOpenMap.piMap`.

---

- [x] depends on: #15694 
- [x] depends on: #17482

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/Cofinite.lean [hunk 1]
```diff
@@ -129,6 +129,35 @@ theorem Tendsto.countable_compl_preimage_ker {f : α → β}
...
 
+theorem univ_pi_mem_pi {α : ι → Type*} {s : ∀ i, Set (α i)} {l : ∀ i, Filter (α i)}
+    (h : ∀ i, s i ∈ l i) (hfin : ∀ᶠ i in cofinite, s i = univ) : univ.pi s ∈ pi l := by
+  filter_upwards [pi_mem_pi hfin fun i _ ↦ h i] with a ha i _
+  if hi : s i = univ then
+    simp [hi]
+  else
+    exact ha i hi
+
+theorem map_dcomp_pi {α β : ι → Type*} {f : ∀ i, α i → β i}
```
Comment (sgouezel) [inline Mathlib/Order/Filter/Cofinite.lean:140]: Can you add a docstring to this theorem and the next one?

File: Mathlib/Order/Filter/Cofinite.lean [hunk 2]
```diff
@@ -130,6 +130,51 @@ theorem Tendsto.countable_compl_preimage_ker {f : α → β}
...
+  refine le_antisymm (tendsto_piMap_pi fun _ ↦ tendsto_map) ?_
+  refine ((hasBasis_pi fun i ↦ (l i).basis_sets).map _).ge_iff.2 ?_
+  rintro ⟨I, s⟩ ⟨hI : I.Finite, hs : ∀ i ∈ I, s i ∈ l i⟩
+  classical
+  rw [← univ_pi_piecewise_univ, piMap_image_univ_pi]
+  refine univ_pi_mem_pi (fun i ↦ ?_) ?_
+  · if hi : i ∈ I then
+      simpa [hi] using image_mem_map (hs i hi)
+    else
+      simp [hi]
```
Comment (j-loreaux) [inline Mathlib/Order/Filter/Cofinite.lean:163]: The `if ... then ... else ...` in a proof looks weird to me. I won't require this change, but I think this seems more natural (untested):
```suggestion
  · by_cases hi : i ∈ I
    · simpa [hi] using image_mem_map (hs i hi)
    · simp [hi]
```

**Comment by j-loreaux** [comment]
Thanks!

bors d+
